US06090817
A stirred mixture of 5-bromobenzofurazan (11.94 g, 60 mmol), 2-hydroxyphenylboronic acid (9.10 g, 66 mmol). tri-o-tolylphosphine (1.82 g, 6 mmol), palladium (II) acetate (0.672 g, 3 mmol), potassium carbonate (12.4 g, 90 mmol), and water (90 mL) in dimethylformamide (180 mL) is heated at 80° C. under an argon atmosphere for 30 minutes. The mixture is then treated with water (300 mL) and extracted with ethyl acetate (3×100 mL). The combined extracts are washed (saturated NaCl), dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by chromatography (silica gel, 20%-100% ethyl acetate in cyclohexane) and recrystallised from ethyl acetate-hexane to give 5-(2-hydroxyphenyl)benzofurazan as a pale-yellow crystalline solid, m.p. 166-169° C.

reactant | 5-bromobenzofurazan | 60 mmol, 11.94 g | BrC=1C=CC=2C(=NON2)C1 | C6H3BrN2O
reactant | 2-hydroxyphenylboronic acid | 66 mmol, 9.10 g | OC1=C(C=CC=C1)B(O)O | C6H7BO3
reactant | tri-o-tolylphosphine | 6 mmol, 1.82 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 90 mmol, 12.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 180 mL | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 3 mmol, 0.672 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 300 mL | O | H2O
solvent | water | 90 mL | O | H2O
product | 5-(2-hydroxyphenyl)benzofurazan | OC1=C(C=CC=C1)C=1C=CC=2C(=NON2)C1 | C12H8N2O2
